US07786044B2
8. Preparation of 2-(4-Chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
A 2.5M solution of n-butyllithium (2.69 ml, 6.73 mmol) in hexanes was added dropwise to a solution of 1-chloro-2,3-difluorobenzene (1 g, 6.73 mmol) in THF (25 mL) cooled to −78° C. After 45 min at −78° C., 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.253 g, 6.73 mmol) was added dropwise after which the reaction mixture was allowed to warm to ambient temperature. The reaction mixture was diluted with water and ethyl acetate, and the organic phase was extracted twice with water. The aqueous extracts were combined, acidified with 12N HCl to pH 3, and extracted with ethyl acetate. The organic extract was dried and concentrated under vacuum to yield the title compound as an oil product (0.93 g, 50% yield): 1H NMR (CDCl3) δ 7.42 (m, 1H), 7.17 (m, 1H), 1.37 (s, 12H).

reactant | n-butyllithium | 6.73 mmol, 2.69 ml | C(CCC)[Li]
reactant | 1-chloro-2,3-difluorobenzene | 6.73 mmol, 1 g | ClC1=C(C(=CC=C1)F)F | C6H3ClF2
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.73 mmol, 1.253 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)F | C12H14BClF2O2
